US04788207
Under a dry nitrogen atmosphere, a stirred mixture of 0.60 gram (0.0019 mole) of 2-(4-chlorophenyl)-5-iodothiazole, 0.21 gram (0.0021 mole) of phenylacetylene, 20 ml of triethylamine, 10 ml of acetonitrile, 0.013 gram (1.0×10-5 mole) of dichlorobis(triphenylphosphine)[palladium (II), and 0.013 gram (6.5×10-5 mole) of copper (I) iodide was heated at reflux for two days. The reaction mixture was cooled, and was then poured into 100 ml of an aqueous, 10% ammonium chloride solution. This mixture was extracted with 100 ml of diethyl ether. The organic extract was washed with an aqueous, saturated ammonium chloride solution followed by two 100 ml portions of water. The washed extract was dried over anhydrous sodium sulfate and was filtered through a pad of Celite® filter aid. The filtrate was evaporated under reduced pressure leaving a residue. This residue was purified by column chromatography on silica gel, eluting with methylene chloride:n-hexane (3:1), to yield 0.4 gram of 1-[2-(4-chlorophenyl)thiazol-5-yl]-2-phenylethyne as a solid, m.p. 108°-110° C., Compound 7 of Table 1.

reactant | 2-(4-chlorophenyl)-5-iodothiazole | 0.0019 mole, 0.60 gram | ClC1=CC=C(C=C1)C=1SC(=CN1)I | C9H5ClINS
reactant | phenylacetylene | 0.0021 mole, 0.21 gram | C1(=CC=CC=C1)C#C | C8H6
reactant | triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
reactant | ammonium chloride | [Cl-].[NH4+]
catalyst | palladium (II) | [Pd+2]
catalyst | copper (I) iodide | 6.5×10-5 mole, 0.013 gram | [Cu]I
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | 1-[2-(4-chlorophenyl)thiazol-5-yl]-2-phenylethyne | 0.4 gram | ClC1=CC=C(C=C1)C=1SC(=CN1)C#CC1=CC=CC=C1 | C17H10ClNS
